US03983128
d. 5-Benzoyl-4-ethoxy-1H-pyrazolo[3,4-b]pyridine
1.7 g. of 5-Benzoyl-4-ethoxy-1-(2-furyl)methyl-1H-pyrazolo[3,4-b]pyridine (0.005 mol.) are dissolved in 5 ml. of diethyleneglycol dimethyl ether, 1.1 g. of selenium dioxide are added and the mixture is heated with stirring at 160°. After the addition of 1 drop of water, the temperature is maintained for 1 hour. The mixture is filtered hot and 5-benzoyl-4-ethoxy-1H-pyrazolo[3,4-b]pyridine precipitates on cooling. Recrystallization from butanol yields 1 g. (77%). m.p. 195°-197°.

reactant | 5-Benzoyl-4-ethoxy-1-(2-furyl)methyl-1H-pyrazolo[3,4-b]pyridine | 0.005 mol | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1)N(N=C2)CC=2OC=CC2)OCC | C20H17N3O3
reactant | selenium dioxide | [Se](=O)=O | O2Se
catalyst | water | 1 drop | O | H2O
solvent | diethyleneglycol dimethyl ether | COCCOCCOC | C6H14O3
product | 5-Benzoyl-4-ethoxy-1H-pyrazolo[3,4-b]pyridine | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1)NN=C2)OCC | C15H13N3O2
